US06924400B2
(p) {5-[6,2′-Diethyl-4′-(1-ethyl-1-hydroxypropyl)biphenyl-3-yloxymethyl]-2-hydroxymethyl-phenyl}methanol
In a manner similar to that of Example 1(q), by reacting 840 mg (1.9 mmol) of 1-{5′-[3,4-bis(hydroxymethyl)benzyloxy]-2,2′-diethylbiphenyl-4-yl}-1-propanone with 5.2 ml (16 mmol) of ethylmagnesium bromide (3M/ether), and after purification by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (40/60), 254 mg (29%) of {5-[6,2′-diethyl-4′-(1-ethyl-1-hydroxypropyl)biphenyl-3-yloxymethyl]-2-hydroxymethylphenyl}methanol are obtained in the form of white crystals with a melting point of 93° C.

reactant | 1-{5′-[3,4-bis(hydroxymethyl)benzyloxy]-2,2′-diethylbiphenyl-4-yl}-1-propanone | 1.9 mmol, 840 mg | OCC=1C=C(COC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(CC)=O)CC)CC)C=CC1CO | C28H32O4
reactant | ethylmagnesium bromide | 16 mmol, 3M, 5.2 ml | C(C)[Mg]Br
product | {5-[6,2′-Diethyl-4′-(1-ethyl-1-hydroxypropyl)biphenyl-3-yloxymethyl]-2-hydroxymethyl-phenyl}methanol | C(C)C1=CC=C(C=C1C1=C(C=C(C=C1)C(CC)(O)CC)CC)OCC=1C=CC(=C(C1)CO)CO | C30H38O4
